US07271274B2
4-{2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]-phenoxy}butane-1,2(R),3(R)-triol
The title compound was prepared using the same procedure as described in Ex-1 starting from probucol and 2-ethoxy-1,3-dioxolane-4(R),5(R)-dimethanol. White solid, mp 69–71° C. 1H-NMR (CDCl3) δ 7.56 (s, 2H, Ph-H), 7.45 (s, 2H, Ph-H), 5.38 (s, 1H, PhOH), 4.2{tilde over (5)}4.32 (m, 1H, PhOCH2CH), 3.96 (dd, J=9, 10, 1H, CH—O—), 3.7{tilde over (2)}3.86 (m, 4H, , CH—O—), 3.0{tilde over (0)}3.40 (m, 3H, OH), 1.46 (s, 6H, S,S′-isopropylidene), 1.45 (s, 18H, tert-butyls), 1.43 (s, 18H, tert-butyls). MS m/z: 643 ([M+Na]+, 100%). Anal. calcd. for C35H56O5S2.⅓H2O: C67.05, H9.11, S, 10.23; found: C67.03, H9.06, S10.01.

reactant | probucol | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | 2-ethoxy-1,3-dioxolane-4(R),5(R)-dimethanol | C(C)OC1O[C@@H]([C@H](O1)CO)CO | C7H14O5
product | 4-{2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]-phenoxy}butane-1,2(R),3(R)-triol | C(C)(C)(C)C1=C(OC[C@H]([C@@H](CO)O)O)C(=CC(=C1)S(SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)C)C(C)(C)C | C35H58O5S2
